US08017611B2
A mixture of 3-(7-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine (85 mg) and 1-bromopyrrolidine-2,5-dione (69.0 mg) in THF (2 ml) was stirred at 25° C. for 1 hour. The reaction mixture was concentrated to dryness and the resulting solid was triturated with water to give a solid which was collected by filtration and dried under vacuum to give 5-bromo-3-(7-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine (120 mg) as a solid.

reactant | 3-(7-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine | 85 mg | COC1=CC=CC=2N=C(OC21)C=2C(=NC=CC2)N | C13H11N3O2
reactant | 1-bromopyrrolidine-2,5-dione | 69.0 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 5-bromo-3-(7-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine | 120 mg | BrC=1C=C(C(=NC1)N)C=1OC2=C(N1)C=CC=C2OC | C13H10BrN3O2
